US09023847B2
81. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-benzyl-2-hydroxy-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using (R)-phenylalaninol instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 392 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.54 (1H, br. s.) 10.14 (1H, s) 7.98 (1H, d, J=5.47 Hz) 7.72-7.82 (2H, m) 7.40 (1H, d, J=5.37 Hz) 7.28 (1H, dd, J=3.54, 2.22 Hz) 7.14-7.22 (4H, m) 7.10 (1H, ddd, J=6.20, 2.98, 2.73 Hz) 6.73 (1H, d, J=5.52 Hz) 6.39 (1H, dd, J=3.51, 1.66 Hz) 4.82 (1H, t, J=5.56 Hz) 4.13 (1H, ddd, J=14.04, 5.58, 2.98 Hz) 3.42-3.49 (1H, m) 3.38 (1H, t, J=5.78 Hz) 2.84-2.93 (1H, m) 2.73 (1H, dd, J=13.67, 8.93 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | (R)-phenylalaninol | N[C@H](CC1=CC=CC=C1)CO | C9H13NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-benzyl-2-hydroxy-ethyl)-amide | C(C1=CC=CC=C1)[C@H](CO)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H20N4O2S
